US07666871B2
Add methanesulfonyl chloride (0.745 g, 6.50 mmol) to a cool (0° C.) solution of 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol (1.4 g, 5.0 mmol) and triethylamine (1.26 g, 12.5 mmol) in dichloromethane (20 mL). Warm to room temperature and stir for 1 hour. Remove solvents, transfer crude of methanesulfonic acid 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl ester residue to a sealed tube, add tetrahydrofuran (30 mL), azetidine (2.0 g, 35.5 mmol), and heat at 60° C. overnight. Wash the crude organic material with 1N HCl. Separate layers and add 5N NaOH to the aqueous layer until it is basic. Extract the aqueous layer with diethyl ether (2×50 mL), dry the organic extracts over Na2SO4, filter, and concentrate. Purify on silica gel eluting with 10% ammoniated methanol in dichloromethane to give 4-(2-azetidin-1-yl-ethyl)-2-(4-bromo-phenyl)-5-methyl-oxazole (1.22 g, 72%): mass spectrum (m/e): 323 (M+1).

reactant | methanesulfonyl chloride | 6.50 mmol, 0.745 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol | 5.0 mmol, 1.4 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
reactant | triethylamine | 12.5 mmol, 1.26 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl ester | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C)C | C13H14BrNO4S
reactant | azetidine | 35.5 mmol, 2.0 g | N1CCC1 | C3H7N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(2-azetidin-1-yl-ethyl)-2-(4-bromo-phenyl)-5-methyl-oxazole | 1.22 g, 72% | N1(CCC1)CCC=1N=C(OC1C)C1=CC=C(C=C1)Br | C15H17BrN2O
